US07081454B2
4-Hydroxy-3-(1-tert-butyloxycarbonyl-4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1,5-dihydro-pyrrol-2-one:
To a stirred suspension of sodium hydride (60% in oil, 0.014 g, 0.352 mmol) in toluene (5 mL) was added [2-(1-tert-butyloxycarbonyl-4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-acetylamino]-acetic acid ethyl ester (0.135 g, 0.293 mmol) in tetrahydrofuran (5 mL) over 5 minutes. The mixture was stirred at 90–100° C. for 2.5 hours, then cooled down to ˜0° C. and ethyl acetate followed by aqueous ammonium chloride (˜3 mL) were added. The aqueous phase was extracted with ethyl acetate (3×). The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was quickly purified by silica gel chromatography to give the title material (0.072 g, 59%) as a white solid. LCMS (+ESI, M+H+) m/z 415, (−ESI, M−H−) m/z 413; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 1.47 (9H, s), 3.06 (4H, br s), 3.74 (4H, br s), 3.94 (2H, br s), 6.83 (1H, s), 6.97 (1H, s), 12.1 (1H, m), 12.56 (1H, s).

reactant | sodium hydride | 0.352 mmol, 0.014 g | [H-].[Na+]
reactant | [2-(1-tert-butyloxycarbonyl-4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-acetylamino]-acetic acid ethyl ester | 0.293 mmol, 0.135 g | C(C)OC(CNC(CC1=NC2=C(N1C(=O)OC(C)(C)C)C=C(C=C2C)N2CCOCC2)=O)=O | C23H32N4O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | ˜3 mL | [Cl-].[NH4+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-Hydroxy-3-(1-tert-butyloxycarbonyl-4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1,5-dihydro-pyrrol-2-one | 0.072 g, 59% | OC1=C(C(NC1)=O)C1=NC2=C(N1C(=O)OC(C)(C)C)C=C(C=C2C)N2CCOCC2 | C21H26N4O5
